US07767675B2
Step 1. methyl (4-bromo-2-fluorobenzyl)carbamate
Methyl chloroformate (85.0 μL, 1.1 mmol) was added to a solution of 1-(4-bromo-2-fluorophenyl)methanamine (0.204 g, 1.0 mmol) and triethylamine (148.1 μL, 1.1 mmol) in methylene chloride (5 mL) at 0° C. After 10 min, the ice-water bath was removed. The mixture was stirred at RT for 1 h, washed with water, and brine. The organic layer was dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue (220 mg, 83.9%) was directly used in next step without further purification. LCMS: (M+H)=263.9/261.8.

reactant | Methyl chloroformate | 1.1 mmol, 85.0 μL | ClC(=O)OC | C2H3ClO2
reactant | 1-(4-bromo-2-fluorophenyl)methanamine | 1.0 mmol, 0.204 g | BrC1=CC(=C(C=C1)CN)F | C7H7BrFN
reactant | triethylamine | 1.1 mmol, 148.1 μL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | methyl (4-bromo-2-fluorobenzyl)carbamate | BrC1=CC(=C(CNC(OC)=O)C=C1)F | C9H9BrFNO2
